US07851640B2
(E)-tert-butyl 2-(3-hydroxynaphthalene-2-carbonyl)-3-phenylprop-2-enoate:
Prepared according to general procedure A using tert-butyl 3-(3-hydroxynaphthalen-2-yl)-3-oxopropanoate (286 mg, 1.0 mmol), benzaldehyde (100 μL, 1.00 mmol), 15.0 mL benzene, piperidine (10 μL, 0.10 mmol) and glacial acetic acid (5.7 μL, 0.10 mmol), refluxed for 4 h. Purified via recrystallization from hexanes/CH2Cl2, yielding 213 mg (57%) of yellow solid. mp=132-135° C.; IR (film) 2977.6; 1716.6; 1639.5; 1154.5 cm−1; 1H NMR (500 MHz, CDCl3) δ 11.20 (bs, 1H), 8.19 (s, 1H); 7.96 (s, 1H), 7.70 (t, J=7.3 Hz, 2H), 7.51 (t, J=8.0 Hz, 1H), 7.40-7.25 (m, 7H), 1.38 (s, 9H); 13C NMR (125 MHz, CDCl3) δ 201.9, 163.9, 157.1, 142.8, 138.7, 135.1, 132.8, 131.6, 130.8, 130.4, 130.2, 129.8, 129.2, 127.3, 126.6, 124.4, 121.7, 112.6, 83.0, 28.1; LRMS (electrospray): Mass calculated for C24H22O4 [M]+, 374.15. Found [M+23]+, 397.0.

reactant | tert-butyl 3-(3-hydroxynaphthalen-2-yl)-3-oxopropanoate | 1.0 mmol, 286 mg | OC=1C(=CC2=CC=CC=C2C1)C(CC(=O)OC(C)(C)C)=O | C17H18O4
reactant | benzaldehyde | 1.00 mmol, 100 μL | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 0.10 mmol, 10 μL | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.10 mmol, 5.7 μL | C(C)(=O)O | C2H4O2
solvent | benzene | 15.0 mL | C1=CC=CC=C1 | C6H6
product | (E)-tert-butyl 2-(3-hydroxynaphthalene-2-carbonyl)-3-phenylprop-2-enoate | 213 mg, 57% | OC=1C(=CC2=CC=CC=C2C1)C(=O)/C(/C(=O)OC(C)(C)C)=C\C1=CC=CC=C1 | C24H22O4
